Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
confusion
 
Major Surgical or Invasive Procedure:
Lung biopsy ___

 
History of Present Illness:
___ year-old right handed man with hx of HTN, HPL and diabetes
presented to the ED from OSH after CT of the head showed 
multiple
hypodense lesion in the brain, concerning for metastasis.

Today around ___, while  he was standing at his friend's auto
___ shop (where he works)and sanding a car, his friend noticed
that the patient was staring at a far point and blinking fast,
When he asked him if he is alright, the patient bent and
eventually fell on his right side, with his left elbow flexed on
his chest and his legs were hyperextended, his eyes were wide
open, as if he was scared.
He was breathing fast  with a loud noise, his mouth were open 
and
his tongue was out. He did not develop incontinence or tongue
laceration. His daughter arrived at the middle of the event and
called EMS, EMS arrived in ___ min and the whole episode lasted
about 10 min, after that the patient was drowsy, confued, 
without
memory of the event and agitated.At the time  he arrived at ___
he started fighting with the staff, talking in ___ he is
fluent in ___, answered the questions in ___. then he
received Ativan and loaded with Keppra, CT of the head and
cervical spine was performed.
___ showed multiple hypodense lesion with vasogenic edema
without midline shift, he was tx here for further evaluation.
At OSH, received 2mg ativan, keppra, and decadron 8mg.

Currently the patient is drowsy and inattentive, but denied any
pain.
He can not remember what happened to him, also can not remember
if he ever went to work or not.
He is calm and denied headache.
But per his daughter who lives with him, recently he does not 
eat
much, feels full after small portion of food and complains of
abdominal pain after eating.
She denied any gross weight loss, blood in urine or stool to her
knowledge, fever, chest pain or rash.
The patient denied any pain or other symptoms such as  headache,
loss of vision, blurred vision, diplopia, dysarthria, dysphagia,
lightheadedness, vertigo, tinnitus or hearing difficulty. Denies
difficulties producing or comprehending speech.  Denies focal
weakness, numbness, parasthesiae. No bowel or bladder
incontinence or retention. Denies difficulty with gait.

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation.  

No recent change in bowel or bladder habits.  No dysuria.  
Denies
arthralgias or myalgias. Denies rash.
 
Past Medical History:
PMH:
HTN, HPL, DM
 
Social History:
___
Family History:
Family Hx:
There is no history of seizures, developmental disability,
learning disorders, migraine headaches, strokes less than 50,
neuromuscular disorders, or movement disorders.
 
Physical Exam:
ADMISSION EXAM:
Vitals: 99.0 95 113/67 16 95% RA 
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Full range of motion OR decreased neck rotation and
flexion/extension.
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: Distended abdomen with shifting dullness, possible
ascites, and splenomegaly, he denied tenderness in the deep
palpation.
Extremities: has multiple bruises after the fall 2+ radial, DP
pulses bilaterally. Calves SNT bilaterally.

Neurological examination:is limited as the patient was examined
after 2 mg of ativan, drowsiness and inattention

- Mental Status:
ORIENTATION - awake, drowsy, fell sleep multiple times during
exam, Inattentive, does not know why he is in hospital, he knows
that it's ___, and ___, knows that he is in a hospital in
___, but does not know why.
Inattentive to ___ backward.
Language is fluent with intact repetition , able to follow 2
steps commands. There were no paraphasic errors.
Speech was not dysarthric.
NAMING good for high frequency objects, could not name low
frequency object
REGISTRATION and RECALL
Pt. was able to register ___ and recall ___ at 5 minutes.
COMPREHENSION
Able to follow both midline and appendicular commands
There was no evidence of neglect

- Cranial Nerves:
I: Olfaction not tested.
II: PERRL 4 to 2mm and brisk. VFF to confrontation. Blinks to
threat bilaterally. Funduscopic exam reveals no papilledema,
exudates, or hemorrhages.
III, IV, VI: he has right eye esotropia, but able to pass the
midline,  EOMI without nystagmus.
V: Facial sensation intact to light touch. Good power in muscles
of mastication.
VII: No facial weakness, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline with normal velocity movements.

- Motor: Normal bulk, tone throughout. mild  pronator drift on
the left side.
No tremor, noted. No asterixis noted.
His muscle stenght is ___ in Del, Bic, Tric, WE, WF FF,FE
bilaterally.
In lower ext: his left leg has external rotation, tone is
slightly increased compare to the right, but no weakness was
detected.
- Sensory: No deficits to light touch and pinprick, decreased
position sense at the level of big toes bilaterally.
- DTRs:
   BJ SJ TJ  KJ  AJ
L  ___   0   0
R  ___   0   0
There was 2 beats of of clonus bilaterally.
Plantar response was flexor although he is very sensitive and
withdraw.
- Coordination: No intention tremor, No dysmetria on FNF .
- Gait: deferred
 
Pertinent Results:
___: 11.9  PTT: 26.3  INR: 1.1  

139/103/18
----------<168   AGap=15 
3.7/ ___  
               85 
10.7>12.8<236 
     37.8  

OSH NCHCT:
Multiple circumscribed margins hypodense lesions possibly at the
grey-white junction with possible vasogenic edema in frontal
lobes,R lower temporal and  R cerebellar lobe.

CT Chest w/wo contrast: 
1.  Innumerable pulmonary nodules are identified, with the 
largest mass in the right upper lobe measuring 3 cm x 2.5 cm.  
Additional multiple nodules are seen throughout the lungs 
bilaterally measuring up to 1.1 cm concerning for diffusely 
metastatic disease. 
2.  Sclerotic lesions within the vertebral bodies and ribs are 
concerning for metastatic lesions.  A bone scan is recommended 
for further evaluation. 

CT abdomen/pelvis w/wo contrast: 
1.  Lesion in the lower pole of the right kidney is of 
intermediate density. A non-urgent ultrasound is recommended for 
further evaluation. 
2.  Innumerable sclerotic foci are seen throughout the vertebral 
bodies and pelvis, concerning for metastatic lesion. 
3.  No other intra-abdominal metastatic lesions are identified. 

MR head w/wo contrast: 1.  Innumerable, predominantly 
hemorrhagic, metastatic lesions throughout both cerebral and 
cerebellar hemispheres and the brainstem, representing 
widespread metastases, as queried clinically. 
2.  The associated susceptibility artifact likely represents 
hemorrhage rather than melanin, as the bulk of the lesions do 
not demonstrate intrinsic hyperintensity on T1-weighted imaging. 

3.  Relatively little associated vasogenic edema, except in 
association with the lesions in the frontal poles and, to a 
lesser extent, the right cerebellar hemisphere, with no 
significant mass effect or central herniation; this pattern is 
sometimes observed with non-small cell carcinoma of the lung, 
though hemorrhage is unusual. 

Bone scan: Multiple foci of tracer uptake within the thoracic 
and lumbar spine, ribs, and left mid femoral shaft consistent 
with metastatic disease. 

 
Brief Hospital Course:
Patient was admitted after presenting with confusion and altered 
mental status and behavior and having Head CT at OSH showing 
multiple brain lesions concerning for metastatic disease.

# Neuro: Patient was started on Keppra 1000mg BID for seizure 
prophylaxis. MRI brain was done with and without contrast and 
showed innumerable, predominantly hemorrhagic, metastatic 
lesions throughout both cerebral and cerebellar hemispheres and 
the brainstem, representing widespread metastases. 
Neuro-oncology was consulted after further studies showed 
pulmonary nodules and bony lesions further suggesting metastatic 
disease. They recommended biopsy of pulmonary nodule.

# ___: Patient remained HD stable. 

# ONC: CT torso with and without contrast obtained and showed 
innumerable pulmonary nodule with the largest in the right upper 
lobe as well as bony lesions in vertebral bodies and ribs. Bone 
scan done and showed multiple foci of tracer uptake within the 
thoracic and lumbar spine, ribs, and left mid femoral shaft 
consistent with metastatic disease. Neuro-oncology consulted and 
recommended biopsy of lung lesion. Radiation Oncology was also 
consulted for possible whole brain radiation. Patient underwent 
lung biopsy by ___ on ___. 

# ID: Ceftriaxone started on ___ for Enterococcus UTI. 
Discharged on Cefpodoxime to complete 10 day course on ___.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Simvastatin 20 mg PO QPM 
2. MetFORMIN (Glucophage) 500 mg PO BID 
3. Famotidine 20 mg PO BID 

 
Discharge Medications:
1. LeVETiracetam 1000 mg PO BID 
RX *levetiracetam 1,000 mg 1 tablet(s) by mouth twice a day Disp 
#*30 Tablet Refills:*5
2. Cefpodoxime Proxetil 200 mg PO Q12H Duration: 8 Days 
RX *cefpodoxime 200 mg 1 tablet(s) by mouth twice a day Disp 
#*14 Tablet Refills:*0
3. Famotidine 20 mg PO BID 
4. MetFORMIN (Glucophage) 500 mg PO BID 
5. Simvastatin 20 mg PO QPM 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Likely metastases to brain from unknown primary

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted after you had an event concerning for seizure 
at work. You were started on Keppra 1000mg twice daily and had 
no further seizures. You were found on brain MRI to have 
multiple lesions throughout your brain, concerning for cancer. 
On further evaluation and imaging of your body, you were also 
found to have lesions in your lungs and in your bones. The 
neuro-oncology team was consulted and recommended biopsy of one 
of your lung lesions. You underwent biopsy of a lung lesion on 
___. The radiation oncology team was also consulted to 
assess for possible radiation treatment. You will follow up with 
Neuro-oncology, Radiation oncology and Thoracic oncology as an 
outpatient pending pathology report. You were also found to have 
a urinary tract infection and were started on an antibiotic 
called Cefpodoxime that you will finish a course of at home.

Please keep all of your appointments. You will be called with 
your final pathology report from you lung biopsy.

It was a pleasure taking care of you.
 
Followup Instructions:
___